US06949648B2
4-Methoxy-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline
4-Chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline (1.00 g, 3.39 mmol) and 28% sodium methoxide in methanol (9.69 g, 50.2 mmol) were added to a mixture of methanol (30 mL) and tetrahydrofuran (30 mL), and the solution was heated under reflux for 2.5 hours. After the solution was cooled to room temperature, the solvents were evaporated under reduced pressure. The residue was poured into water, and the organic matter was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (hexane:ethyl acetate=1:1 to ethyl acetate) to give the title compound (0.73 g, 50% yield).

reactant | 4-Chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 3.39 mmol, 1.00 g | ClC1=C2C(=NC3=CC=CC=C13)N(N=C2C)C2=NC=CC=C2 | C16H11ClN4
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 50.2 mmol, 9.69 g | CO | CH4O
reactant | methanol | 30 mL | CO | CH4O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-Methoxy-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 0.73 g, 50% yield | COC1=C2C(=NC3=CC=CC=C13)N(N=C2C)C2=NC=CC=C2 | C17H14N4O
